US05591862
A solution of ethyl 5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]valerate (2.55 g) in ether (20 ml) was added dropwise, under ice-cooling, to a suspension of lithium aluminum hydride (LiAlH4) (0.247 g) in ether (40 ml). The mixture was stirred for 15 minutes under ice-cooling, to which was added water (2 ml). Insoluble solid was filtered off, and the filtrate was concentrated to give 5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-1-pentanol (2.15 g, 94%), which was recrystallized from ethyl acetate--hexane to give colorless rods, m.p.78°-79° C.

reactant | ethyl 5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]valerate | 2.55 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCCCC(=O)OCC | C24H27NO4
reactant | lithium aluminum hydride | 0.247 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2 ml | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
product | 5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-1-pentanol | 2.15 g, 94% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCCCCO | C22H25NO3
